US04822780
To a solution of 0.50 g of 4-diethoxyphosphinylmethyl-N-(4-chlorophenyl)benzamide in 10 ml of dry THF was added in portions 0.07 g of sodium hydride (60%, in oil) under ice-cooling with stirring. After stirring for 30 minutes under ice cooling, a solution of 0.23 g of benzyl bromide in 2 ml of dry THF was added. After stirring for 5 hours at room temperature, 30 ml of water was added to the reaction mixture, and the mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was subjected to silica gel column chromatography (eluent; chloroform:ethyl acetate=1:1) to give 4-diethoxyphosphinylmethyl-N-benzyl-N-(4-chlorophenyl)benzamide. It was recrystallized from benzene-n-hexane to give 0.40 g of colorless columnar crystals.

reactant | 4-diethoxyphosphinylmethyl-N-(4-chlorophenyl)benzamide | 0.50 g | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)NC2=CC=C(C=C2)Cl)C=C1 | C18H21ClNO4P
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | benzyl bromide | 0.23 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 30 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-diethoxyphosphinylmethyl-N-benzyl-N-(4-chlorophenyl)benzamide | C(C)OP(=O)(OCC)CC1=CC=C(C(=O)N(C2=CC=C(C=C2)Cl)CC2=CC=CC=C2)C=C1 | C25H27ClNO4P
